US07179819B2
To a stirred solution of tert-butyl 4-amino-3-methoxyphenylacetate (1.94 g, 8.16 mmol) in THF (20 ml) was added 2-iodophenylisocyanate (2.0 g, 8.16 mmol) and Et3 N (114 μl, 0.816 mmol). After stirring overnight, the mixture was poured into 1 N HCl (200 ml). The resulting precipitate was collected by filtration and dissolved in CHCl3 (200 ml). The solution was dried over MgSO4 and evaporated to give tert-butyl 4-[N′-(2-iodophenyl)ureido]-3-methoxyphenylacetate (3.93 g, quant) as a pale yellow amorphous solid. 1H-NMR (CDCl3)δ 1.44 (s, 9 H), 3.49 (s, 2 H), 3.85 (s, 3 H), 6.78–6.88 (m, 4 H), 7.07 (s, 1 H), 7.31–7.35 (m, 1 H), 7.76 (dd, J=7.8, 1.5 Hz, 1 H), 7.95 (d, J=8.3 Hz, 1 H), 7.99 (dd, J=8.3, 1.5 Hz, 1 H). MS (ESI), m/z 483 (M++1).

reactant | tert-butyl 4-amino-3-methoxyphenylacetate | 8.16 mmol, 1.94 g | NC1=C(C=C(C=C1)CC(=O)OC(C)(C)C)OC | C13H19NO3
reactant | 2-iodophenylisocyanate | 8.16 mmol, 2.0 g | IC1=C(C=CC=C1)N=C=O | C7H4INO
reactant | HCl | 1 N, 200 ml | Cl | ClH
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | tert-butyl 4-[N′-(2-iodophenyl)ureido]-3-methoxyphenylacetate | 3.93 g | IC1=C(C=CC=C1)NC(NC1=C(C=C(C=C1)CC(=O)OC(C)(C)C)OC)=O | C20H23IN2O4
